* Copyright © Linear Technology Corp. 2012.  All rights reserved.
*
.subckt LT1083-12 1 2 3
Q1 N003 2 N006 0 N temp=27
Q3 3 N002 2 0 NP
I2 3 N003 55µ
Q7 3 N003 N004 0 NA
Q12 2 N004 N002 0 PA
I1 N004 2 100µ
D1 N002 3 D
G1 N002 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N002 100K
G3 3 N002 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N002 N006 1Meg
C3 3 N004 500p Rser=5K
D3 N003 3 D
R7 3 N003 150Meg
R8 2 N006 242
R9 N006 1 2.074K
D2 3 2 2mA
.model 2mA D(Ron=250 Roff=100 Ilimit=2m)
.model D D(Ron=1 Roff=1T)
.model N NPN(BF=125 Cjc=40p Re=9.87K)
.model NA NPN(BF=125)
.model PA PNP(BF=80)
.model NP NPN(BF=3K)
.ends LT1083-12
*
.subckt LT1083-5 1 2 3
Q1 N003 2 N006 0 N temp=27
Q3 3 N002 2 0 NP
I2 3 N003 55µ
Q7 3 N003 N004 0 NA
Q12 2 N004 N002 0 PA
I1 N004 2 100µ
D1 N002 3 D
G1 N002 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N002 100K
G3 3 N002 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N002 N006 1Meg
C3 3 N004 500p Rser=5K
D3 N003 3 D
R7 3 N003 150Meg
R8 2 N006 242
R9 N006 1 730
D2 3 2 2mA
.model 2mA D(Ron=250 Roff=100 Ilimit=2m)
.model D D(Ron=1 Roff=1T)
.model N NPN(BF=125 Cjc=40p Re=9.87K)
.model NA NPN(BF=125)
.model PA PNP(BF=80)
.model NP NPN(BF=3K)
.ends LT1083-5
*
.subckt LT1083 1 2 3
Q1 N003 2 1 0 N temp=27
Q3 3 N002 2 0 NP
I2 3 N003 55µ
Q7 3 N003 N004 0 NA
Q12 2 N004 N002 0 PA
I1 N004 2 100µ
D1 N002 3 D
G1 N002 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N002 100K
G3 3 N002 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N002 1 1Meg
C3 3 N004 500p Rser=5K
D3 N003 3 D
R7 3 N003 150Meg
D2 3 2 2mA
.model 2mA D(Ron=250 Roff=100 Ilimit=2m)
.model D D(Ron=1 Roff=1T)
.model N NPN(BF=125 Cjc=40p Re=9.87K)
.model NA NPN(BF=125)
.model PA PNP(BF=80)
.model NP NPN(BF=3K)
.ends LT1083
*
.subckt LT1084-12 1 2 3
Q1 N003 2 N006 0 N temp=27
Q3 3 N002 2 0 NP
I2 3 N003 55µ
Q7 3 N003 N004 0 NA
Q12 2 N004 N002 0 PA
I1 N004 2 100µ
D1 N002 3 D
G1 N002 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N002 100K
G3 3 N002 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N002 N006 1Meg
C3 3 N004 500p Rser=5K
D3 N003 3 D
R7 3 N003 150Meg
D2 3 2 2mA
R8 2 N006 242
R9 N006 1 2.076K
.model D D(Ron=1 Roff=1T)
.model N NPN(BF=125 Cjc=40p Re=9.87K)
.model NA NPN(BF=125)
.model PA PNP(BF=80)
.model NP NPN(BF=2K)
.model 2mA D(Ron=250 Roff=100 Ilimit=2m)
.ends LT1084-12
*
.subckt LT1084-3.3 1 2 3
Q1 N003 2 N006 0 N temp=27
Q3 3 N002 2 0 NP
I2 3 N003 55µ
Q7 3 N003 N004 0 NA
Q12 2 N004 N002 0 PA
I1 N004 2 100µ
D1 N002 3 D
G1 N002 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N002 100K
G3 3 N002 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N002 N006 1Meg
C3 3 N004 500p Rser=5K
D3 N003 3 D
R7 3 N003 150Meg
D2 3 2 2mA
R8 2 N006 242
R9 N006 1 397
.model D D(Ron=1 Roff=1T)
.model N NPN(BF=125 Cjc=40p Re=9.87K)
.model NA NPN(BF=125)
.model PA PNP(BF=80)
.model NP NPN(BF=2K)
.model 2mA D(Ron=250 Roff=100 Ilimit=2m)
.ends LT1084-3.3
*
.subckt LT1084-5 1 2 3
Q1 N003 2 N006 0 N temp=27
Q3 3 N002 2 0 NP
I2 3 N003 55µ
Q7 3 N003 N004 0 NA
Q12 2 N004 N002 0 PA
I1 N004 2 100µ
D1 N002 3 D
G1 N002 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N002 100K
G3 3 N002 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N002 N006 1Meg
C3 3 N004 500p Rser=5K
D3 N003 3 D
R7 3 N003 150Meg
D2 3 2 2mA
R8 2 N006 242
R9 N006 1 725
.model D D(Ron=1 Roff=1T)
.model N NPN(BF=125 Cjc=40p Re=9.87K)
.model NA NPN(BF=125)
.model PA PNP(BF=80)
.model NP NPN(BF=2K)
.model 2mA D(Ron=250 Roff=100 Ilimit=2m)
.ends LT1084-5
*
.subckt LT1084 1 2 3
Q1 N003 2 1 0 N temp=27
Q3 3 N002 2 0 NP
I2 3 N003 55µ
Q7 3 N003 N004 0 NA
Q12 2 N004 N002 0 PA
I1 N004 2 100µ
D1 N002 3 D
G1 N002 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N002 100K
G3 3 N002 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N002 1 1Meg
C3 3 N004 500p Rser=5K
D3 N003 3 D
R7 3 N003 150Meg
D2 3 2 2mA
.model D D(Ron=1 Roff=1T)
.model N NPN(BF=125 Cjc=40p Re=9.87K)
.model NA NPN(BF=125)
.model PA PNP(BF=80)
.model NP NPN(BF=2K)
.model 2mA D(Ron=250 Roff=100 Ilimit=2m)
.ends LT1084
*
.subckt LT1085-12 1 2 3
Q1 N003 2 N006 0 N temp=27
Q3 3 N002 2 0 NP
I2 3 N003 55µ
Q7 3 N003 N004 0 NA
Q12 2 N004 N002 0 PA
I1 N004 2 100µ
D1 N002 3 D
G1 N002 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N002 100K
G3 3 N002 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N002 N006 1Meg
C3 3 N004 500p Rser=5K
D3 N003 3 D
R7 3 N003 150Meg
D2 3 2 2mA
R2 2 N006 242
R8 N006 1 2.076K
.model D D(Ron=1 Roff=1T)
.model N NPN(BF=125 Cjc=40p Re=9.87K)
.model NA NPN(BF=125)
.model PA PNP(BF=80)
.model NP NPN(BF=1.2K)
.model 2mA D(Ron=250 Roff=100 Ilimit=2m)
.ends LT1085-12
*
.subckt LT1085-3.3 1 2 3
Q1 N003 2 N006 0 N temp=27
Q3 3 N002 2 0 NP
I2 3 N003 55µ
Q7 3 N003 N004 0 NA
Q12 2 N004 N002 0 PA
I1 N004 2 100µ
D1 N002 3 D
G1 N002 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N002 100K
G3 3 N002 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N002 N006 1Meg
C3 3 N004 500p Rser=5K
D3 N003 3 D
R7 3 N003 150Meg
D2 3 2 2mA
R2 2 N006 242
R8 N006 1 397
.model D D(Ron=1 Roff=1T)
.model N NPN(BF=125 Cjc=40p Re=9.87K)
.model NA NPN(BF=125)
.model PA PNP(BF=80)
.model NP NPN(BF=1.2K)
.model 2mA D(Ron=250 Roff=100 Ilimit=2m)
.ends LT1085-3.3
*
.subckt LT1085-3.6 1 2 3
Q1 N003 2 N006 0 N temp=27
Q3 3 N002 2 0 NP
I2 3 N003 55µ
Q7 3 N003 N004 0 NA
Q12 2 N004 N002 0 PA
I1 N004 2 100µ
D1 N002 3 D
G1 N002 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N002 100K
G3 3 N002 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N002 N006 1Meg
C3 3 N004 500p Rser=5K
D3 N003 3 D
R7 3 N003 150Meg
D2 3 2 2mA
R2 2 N006 242
R8 N006 1 455
.model D D(Ron=1 Roff=1T)
.model N NPN(BF=125 Cjc=40p Re=9.87K)
.model NA NPN(BF=125)
.model PA PNP(BF=80)
.model NP NPN(BF=1.2K)
.model 2mA D(Ron=250 Roff=100 Ilimit=2m)
.ends LT1085-3.6
*
.subckt LT1085-5 1 2 3
Q1 N003 2 N006 0 N temp=27
Q3 3 N002 2 0 NP
I2 3 N003 55µ
Q7 3 N003 N004 0 NA
Q12 2 N004 N002 0 PA
I1 N004 2 100µ
D1 N002 3 D
G1 N002 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N002 100K
G3 3 N002 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N002 N006 1Meg
C3 3 N004 500p Rser=5K
D3 N003 3 D
R7 3 N003 150Meg
D2 3 2 2mA
R2 2 N006 242
R8 N006 1 725
.model D D(Ron=1 Roff=1T)
.model N NPN(BF=125 Cjc=40p Re=9.87K)
.model NA NPN(BF=125)
.model PA PNP(BF=80)
.model NP NPN(BF=1.2K)
.model 2mA D(Ron=250 Roff=100 Ilimit=2m)
.ends LT1085-5
*
.subckt LT1085 1 2 3
Q1 N003 2 1 0 N temp=27
Q3 3 N002 2 0 NP
I2 3 N003 55µ
Q7 3 N003 N004 0 NA
Q12 2 N004 N002 0 PA
I1 N004 2 100µ
D1 N002 3 D
G1 N002 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N002 100K
G3 3 N002 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N002 1 1Meg
C3 3 N004 500p Rser=5K
D3 N003 3 D
R7 3 N003 150Meg
D2 3 2 2mA
.model D D(Ron=1 Roff=1T)
.model N NPN(BF=125 Cjc=40p Re=9.87K)
.model NA NPN(BF=125)
.model PA PNP(BF=80)
.model NP NPN(BF=1.2K)
.model 2mA D(Ron=250 Roff=100 Ilimit=2m)
.ends LT1085
*
.subckt LT1086-12 1 2 3
Q1 N002 2 N001 0 N temp=27
R2 N001 N005 9.87K
Q3 3 N007 2 0 NP
I2 3 N002 55µ
Q7 3 N002 N006 0 NA
Q12 2 N006 N007 0 PA
I1 N006 2 100µ
D1 N007 3 D
G1 N007 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N007 100K
G3 3 N007 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N007 N005 1Meg
I4 3 2 1.5m load
C3 3 N006 500p Rser=5K
D3 N002 3 D
R7 3 N002 150Meg
R8 2 N005 242
R5 1 N005 2.075K
.model N NPN(BF=125 Cjc=40p)
.model NP NPN(BF=600)
.model D D(Ron=1 Roff=1T)
.model PA PNP(BF=80)
.model NA NPN(BF=125)
.ends LT1086-12
*
.subckt LT1086-2.85 1 2 3
Q1 N002 2 N001 0 N temp=27
R2 N001 N005 9.87K
Q3 3 N007 2 0 NP
I2 3 N002 55µ
Q7 3 N002 N006 0 NA
Q12 2 N006 N007 0 PA
I1 N006 2 100µ
D1 N007 3 D
G1 N007 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N007 100K
G3 3 N007 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N007 N005 1Meg
I4 3 2 1.5m load
C3 3 N006 500p Rser=5K
D3 N002 3 D
R7 3 N002 150Meg
R8 2 N005 242
R5 1 N005 310.1
.model N NPN(BF=125 Cjc=40p)
.model NP NPN(BF=600)
.model D D(Ron=1 Roff=1T)
.model PA PNP(BF=80)
.model NA NPN(BF=125)
.ends LT1086-2.85
*
.subckt LT1086-3.3 1 2 3
Q1 N002 2 N001 0 N temp=27
R2 N001 N005 9.87K
Q3 3 N007 2 0 NP
I2 3 N002 55µ
Q7 3 N002 N006 0 NA
Q12 2 N006 N007 0 PA
I1 N006 2 100µ
D1 N007 3 D
G1 N007 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N007 100K
G3 3 N007 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N007 N005 1Meg
I4 3 2 1.5m load
C3 3 N006 500p Rser=5K
D3 N002 3 D
R7 3 N002 150Meg
R8 2 N005 242
R5 1 N005 397
.model N NPN(BF=125 Cjc=40p)
.model NP NPN(BF=600)
.model D D(Ron=1 Roff=1T)
.model PA PNP(BF=80)
.model NA NPN(BF=125)
.ends LT1086-3.3
*
.subckt LT1086-3.6 1 2 3
Q1 N002 2 N001 0 N temp=27
R2 N001 N005 9.87K
Q3 3 N007 2 0 NP
I2 3 N002 55µ
Q7 3 N002 N006 0 NA
Q12 2 N006 N007 0 PA
I1 N006 2 100µ
D1 N007 3 D
G1 N007 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N007 100K
G3 3 N007 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N007 N005 1Meg
I4 3 2 1.5m load
C3 3 N006 500p Rser=5K
D3 N002 3 D
R7 3 N002 150Meg
R8 2 N005 242
R5 1 N005 455
.model N NPN(BF=125 Cjc=40p)
.model NP NPN(BF=600)
.model D D(Ron=1 Roff=1T)
.model PA PNP(BF=80)
.model NA NPN(BF=125)
.ends LT1086-3.6
*
.subckt LT1086-5 1 2 3
Q1 N002 2 N001 0 N temp=27
R2 N001 N005 9.87K
Q3 3 N007 2 0 NP
I2 3 N002 55µ
Q7 3 N002 N006 0 NA
Q12 2 N006 N007 0 PA
I1 N006 2 100µ
D1 N007 3 D
G1 N007 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N007 100K
G3 3 N007 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N007 N005 1Meg
I4 3 2 1.5m load
C3 3 N006 500p Rser=5K
D3 N002 3 D
R7 3 N002 150Meg
R8 2 N005 242
R5 1 N005 725
.model N NPN(BF=125 Cjc=40p)
.model NP NPN(BF=600)
.model D D(Ron=1 Roff=1T)
.model PA PNP(BF=80)
.model NA NPN(BF=125)
.ends LT1086-5
*
.subckt LT1086 1 2 3
Q1 N002 2 N001 0 N temp=27
R2 N001 1 9.87K
Q3 3 N007 2 0 NP
I2 3 N002 55µ
Q7 3 N002 N006 0 NA
Q12 2 N006 N007 0 PA
I1 N006 2 100µ
D1 N007 3 D
G1 N007 3 3 2 table( 10 0 20 2.8m 35 3m)
R3 3 N007 100K
G3 3 N007 3 2 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N007 1 1Meg
I4 3 2 2m load
C3 3 N006 500p Rser=5K
D3 N002 3 D
R7 3 N002 150Meg
.model N NPN(BF=125 Cjc=40p)
.model NP NPN(BF=600)
.model D D(Ron=1 Roff=1T)
.model PA PNP(BF=80)
.model NA NPN(BF=125)
.ends LT1086
*
.subckt LT1086H 1 2 3
Q1 N002 3 N001 0 N temp=27
R2 N001 2 9.87K
Q3 1 N007 3 0 NP
I2 1 N002 55µ
Q7 1 N002 N006 0 NA
Q12 3 N006 N007 0 PA
I1 N006 3 100µ
D1 N007 1 D
G1 N007 1 1 3 table( 10 0 20 2.8m 35 3m)
R3 1 N007 100K
G3 1 N007 1 3 table(0.95,0m 0.969,0.5m 1,1m 1.06,1.5m 1.16,2m 1.34,2.5m 1.64,3m)
R4 N007 2 1Meg
I4 1 3 2m load
C3 1 N006 500p Rser=5K
D3 N002 1 D
R7 1 N002 150Meg
.model N NPN(BF=125 Cjc=40p)
.model NP NPN(BF=300)
.model D D(Ron=1 Roff=1T)
.model PA PNP(BF=80)
.model NA NPN(BF=125)
.ends LT1086H
